US06358974B1
7-Cyano-4,4-dimethyl-1,2,3,4-tetrahydroisoquinoline
A mixture of N-tert-butyloxycarbonyl-7-bromo-4,4-dimethyl-1,2,3,4-tetrahydroisoquinoline (4.2 g, 0.01236 mol) and copper (I) cyanide (2.2 g, 0.0247 mol) in N-methylpyrrolidinone (120 ml) was heated at vigorous reflux for 2 hours. On cooling the mix was poured into 0.880 ammonia (300 ml) and water (300 ml) and extracted into ethyl acetate (4×200 ml). Combined organic extracts were washed with 1:10.880 ammonia:water (3×150 ml), water (3×200 ml) and brine (150 ml) and dried (Na2SO4). Solvent was removed in vacuo to afford the title compound as a pale brown solid (1.99 g, 86%).

reactant | N-tert-butyloxycarbonyl-7-bromo-4,4-dimethyl-1,2,3,4-tetrahydroisoquinoline | 0.01236 mol, 4.2 g | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2C(C1)(C)C)Br | C16H22BrNO2
reactant | copper (I) cyanide | 0.0247 mol, 2.2 g | [Cu]C#N
reactant | ammonia | 300 ml | N | H3N
reactant | water | 300 ml | O | H2O
solvent | N-methylpyrrolidinone | 120 ml | CN1C(CCC1)=O | C5H9NO
product | 7-Cyano-4,4-dimethyl-1,2,3,4-tetrahydroisoquinoline | 1.99 g, 86% | C(#N)C1=CC=C2C(CNCC2=C1)(C)C | C12H14N2
